US04438128
1-Phenoxy-3-[2-(4-indazolylamino)-ethylamino]-propan-2-ol benzoate
3.0 g. Phenyl glycidyl ether and 7.0 g. 4-(2-aminoethylamino)-indazole are dissolved in 7 ml. dimethylformamide by warming and then left to stand for 20 hours at ambient temperature. The reaction mixture is dissolved in methylene chloride, shaken out 10 times with water and dried with anhydrous sodium sulphate. The solution is treated with fullers' earth, evaporated and the residue is dissolved in ethyl acetate and 3.0 g. benzoic acid added thereto. The salt obtained is recrystallized from isopropyl alcohol, with the addition of active charcoal and fuller's earth. There are obtained 3.9 g. (43% of theory) of the desired product in the form of colorless crystals; m.p. 155°-156° C.

reactant | Phenyl glycidyl ether | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 4-(2-aminoethylamino)-indazole | NCCNC1=C2C=NNC2=CC=C1 | C9H12N4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Phenoxy-3-[2-(4-indazolylamino)-ethylamino]-propan-2-ol benzoate | C(C1=CC=CC=C1)(=O)OC(COC1=CC=CC=C1)CNCCNC1=C2C=NNC2=CC=C1 | C25H26N4O3
